US06939885B2
Synthesis of N-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone and 4-trifluoromethoxy-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 10.17 (s, 1H) 8.63 (d, J=4 Hz, 1H) 7.78 (m, 3H) 7.51 (s, 1H) 7.30 (s, 1H) 7.17 (s, 1H) 7.09 (s, 1H) 6.97 (d, J=4 Hz, 2H) 2.64 (s, 3H). MS (ES) m/z=471.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C13H11ClN2O
reactant | 4-trifluoromethoxy-benzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-4-trifluoromethoxy-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C(=O)C1=CC(=NC=C1)C | C20H14ClF3N2O4S
